US08222416B2
To a solution of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid (200 mg, 0.48 mmol) and isopropylamine (50 μL, 0.62 mmol) in dichloromethane (1 mL), N,N-dimethylformamide (500 μL) and N-methylmorpholine (150 μL, 1.45 mmol) was added 1-hydroxybenzotriazole hydrate (132 mg, 0.97 mmol) followed by N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (186 mg, 0.97 mmol) in one portion. The mixture was then stirred at 25° C. for 14 h. The mixture was diluted with ethyl acetate (100 mL), washed with a 1 N aqueous sodium bicarbonate solution, 1 N aqueous hydrochloric acid solution, brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid isopropylamide (80 mg, 36%) as a white solid: LC/MS m/e calcd for C25H31N3O3S [M+H]+ 454.61, observed 454.4; 1H NMR (400 MHz, CDCl3) δ ppm 1.12 (m, 2H), 1.24 (d, J=6.7 Hz, 6H), 1.43 (m, 2H), 1.52-1.81 (m, 5H, H), 2.04 (m, 1H), 2.17 (m, 1H), 2.99 (s, 3H), 4.18 (t, J=7.9 Hz, 1H), 4.25 (m, 1H), 6.34 (s, 1H), 6.60 (d, J=7.6 Hz, 1H), 7.41 (d, J=8.1 Hz, 2H), 7.78 (d, J=8.1 Hz, 2H), 8.23 (d, J=1.8 Hz, 1H), 8.53 (d, J=1.8 Hz, 1H), 10.72 (br, 1H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid | 0.48 mmol, 200 mg | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C(=O)O)N1 | C22H24N2O4S
reactant | isopropylamine | 0.62 mmol, 50 μL | C(C)(C)N | C3H9N
reactant | N-methylmorpholine | 1.45 mmol, 150 μL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole hydrate | 0.97 mmol, 132 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.97 mmol, 186 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid isopropylamide | 80 mg, 36% | C(C)(C)NC(=O)C=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C25H31N3O3S
